* source VARIANTA_3
X_POT12         N21181 N21181 N23009 POT PARAMS: SET={set10} VALUE=5k
R_R12         N21061 N23009 R_R12 5.76k TC=0,0 
.model        R_R12 RES R=1 DEV=1% TC1=0 TC2=0
V_V1         VCC 0 5V
C_C11         N21181 0 C_C11 10n  TC=0,0 
.model        C_C11 CAP C=1 DEV=10% TC1=0 TC2=0 VC1=0 VC2=0
C_C12         N21257 0 C_C12 10n  TC=0,0 
.model        C_C12 CAP C=1 DEV=10% TC1=0 TC2=0 VC1=0 VC2=0
R_R11         VCC N22047 R_R11 5.76k TC=0,0 
.model        R_R11 RES R=1 DEV=1% TC1=0 TC2=0
X_X1         0 N21181 N21215 VCC N21257 N21181 N21061 VCC 555D PARAMS:
+  MAXFREQ=3E6
X_POT11         N21061 N22047 N22047 POT PARAMS: SET={set10} VALUE=11k
R_R23         N23999 OUT R_R23 6k TC=0,0 
.model        R_R23 RES R=1 DEV=5% TC1=0 TC2=0
R_R22         0 N23999 R_R22 10k TC=0,0 
.model        R_R22 RES R=1 DEV=5% TC1=0 TC2=0
R_R24         0 OUT R_R24 1k TC=0,0 
.model        R_R24 RES R=1 DEV=5% TC1=0 TC2=0
V_V2         VIN 0 9V
X_POT21         N21215 N30373 N251770 POT PARAMS: SET={set20} VALUE=30k
X_U1         N30373 N23999 VIN 0 OUT HA-5020/HA
R_R21         0 N251770 R_R21 10k TC=0,0 
.model        R_R21 RES R=1 DEV=5% TC1=0 TC2=0
.PARAM  p=30k set10=0 set20=1 r=10k
